Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
ear pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of seizure disorder (last seizure 6 mo ago) and 
migraines who presents with L ear pain.

Patient reports that she began feeling mild pain "inside and 
outside" of her L ear 5 days prior to admission.  This ear pain 
continued to progress and 2 days later was causing significant 
pain to touch and movement of the left face and ear.  She denies 
any discharge.  The patient used an ear wax removal kit, 
consisting of ear drops, with no relief.  Given worsening pain, 
patient presented last night for further evaluation and 
treatment of her left ear pain.

In the ED initial VS were 98.5, 82, 129/63, 16, 99% RA. Exam 
notable for painful and swollen left ear, no discharge. Labs 
unremarkable. CT neck with soft tissue collection surrounding 
left external auditory canal. Patient was given cipro, tylenol, 
and oxycodone. VS prior to transfer were 98.1, 66, 117/75, 16, 
99% RA.  

This morning patient reports that the pain continues to be felt 
both inside and outside of the ear.  The ear itself is very 
painful and any movement causes great discomfort.  She has pain 
extending from her ear down her jaw making it painful for her to 
open her mouth.  She reports headache associated with ear pain, 
but denies visual changes, dizziness, fevers, chills.  She had 
one episode of vertigo this morning with some prolonged standing 
while showering.

Otherwise, she denies trauma, recent swimming or hot tubs, ear 
manipulation, recent illness, sick contacts.
 
Past Medical History:
- Migraines  
- Seizure disorder  (last seizure, reported convulsive 6 months 
ago)
- Mitral valve prolapse  

 
Social History:
___
Family History:
___
 
Physical Exam:
ON ADMISSION:
VS: 98.0, 125/72, 61, 14, 99% RA  
General: Well appearing woman  
HEENT: Left tragus and surround tissue edematous and 
erythematous, painful to touch; otoscopic exam remarkable for 
erythematous and edematous external canal with clear discharge; 
tympanic membrane slightly obscured by clear fluid; sparse 
exudate overlying left tonsil  
Neck: Supple, left sided submandibular and cervical shoddy LAD
CV: Regular, no murmurs appreciated
Lungs: CTAB  
Abdomen: Soft, nontender  
Extrem: WWP, no edema  
Neuro: CN II-XII intact, strength and sensation grossly intact  
Skin: No rashes
Pulses: 2+ pedal pulse

AT DISCHARGE:
VS: 98.1F  120s/70-80s ___ 20 99%RA
General: slightly uncomfortable appearing woman, lying in bed
HEENT: Left tragus and surrounding tissue edematous and 
erythematous, painful to touch, slightly indurated; no crepitus; 
otoscopic exam remarkable for erythematous and edematous 
external canal with clear discharge, slightly less edematous 
than day prior; soft tissue edema still nearly occluding ear; 
tympanic membrane slightly obscured by clear fluid, but 
visualized  
Neck: Supple, left sided submandibular and superficial cervical 
tender, mobile nodules
CV: Regular, no m/r/g
Lungs: CTAB  
Abdomen: Soft, nontender  
Extrem: WWP, no edema  
Neuro: CN II-XII intact, strength and sensation grossly intact  
Skin: No rashes on extremities
Pulses: 2+ pedal pulse
 
Pertinent Results:
___ 05:30PM BLOOD WBC-8.4 RBC-4.03* Hgb-12.5 Hct-36.7 
MCV-91 MCH-30.9 MCHC-33.9 RDW-12.1 Plt ___
___ 06:55AM BLOOD WBC-9.0 RBC-3.77* Hgb-11.6* Hct-35.3* 
MCV-94 MCH-30.7 MCHC-32.8 RDW-12.3 Plt ___
___ 05:30PM BLOOD Neuts-72.6* Lymphs-17.5* Monos-6.7 
Eos-2.8 Baso-0.4
___ 05:30PM BLOOD Glucose-98 UreaN-11 Creat-0.7 Na-142 
K-4.3 Cl-108 HCO3-24 AnGap-14
___ 06:55AM BLOOD Glucose-77 UreaN-11 Creat-0.8 Na-137 
K-4.1 Cl-104 HCO3-22 AnGap-15

IMAGING:  
___ CT Neck w/ con: Thickening and hyperenhancement of the soft 
tissues of the left external auditory canal compatible with 
otitis externa.  Mild secondary parotitis as well as 
inflammation in the overlying subcutaneous soft tissues of the 
face.  
No evidence of osseous erosion, mastoiditis or abscess. 
 
Brief Hospital Course:
___ presenting presents with left ear/face pain, likely acute 
otitis externa.

ACTIVE ISSUES:
# Ear pain: Exam and CT both suggestive of superficial 
cellulitis. No CT evidence of mastoiditis and no abscess or 
drainable collection.  Patient placed initially on ciprofloxacin 
as patient has penicillin allergy to cover for common 
respiratory tract infections.  Added bactrim for additional 
staph coverage for cellulitis.  Patient with minimal subjective 
improvement despite these antibiotics for a day. No signs of 
Ramsay Hunt syndrome, but patient with unilateral throbbing pain 
of face and ear and possible vesicular lesions in auditory 
canal.  ENT called to evaluate.  ENT did not think etiology was 
VZV, suggested discharging patient on 1-week course of 
ciprofloxacin and clindamycin and ciprodex ear drops.  Patient 
agreeable to this plan and will follow up with PCP in next few 
days.

INACTIVE ISSUES: 
# Seizure disorder: Continued Keppra.

CONTINGENCY:
#Language: Patient would likely benefit from ___ 
interpretor in more complex medical interactions.
#Follow-up: with PCP, ensure improving symptoms/exam
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QAM 
2. Ibuprofen 600 mg PO Q8H 
3. LeVETiracetam 1000 mg PO BID 
4. norgestrel-ethinyl estradiol *NF* 0.3-30 mg-mcg Oral daily 
5. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
6. Gabapentin 300 mg PO EVERY AFTERNOON 
7. Gabapentin 900 mg PO HS 

 
Discharge Medications:
1. Gabapentin 300 mg PO QAM 
2. Gabapentin 300 mg PO EVERY AFTERNOON 
3. Gabapentin 900 mg PO HS 
4. LeVETiracetam 1000 mg PO BID 
5. norgestrel-ethinyl estradiol *NF* 0.3-30 mg-mcg Oral daily 
6. Ibuprofen 600 mg PO Q8H 
7. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
8. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
9. Clindamycin 450 mg PO Q8H Duration: 7 Days 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth three times a 
day Disp #*63 Capsule Refills:*0
10. CIPRODEX *NF* (ciprofloxacin-dexamethasone) 0.3-0.1 % AS 1 
drop BID 
RX *ciprofloxacin-dexamethasone [CIPRODEX] 0.3 %-0.1 % 1 drop AS 
twice a day Disp #*1 Bottle Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left facial cellulitis involving ear
Otitis externa

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ for cellulitis, which is an 
infection of your skin.  The cellulitis had extended into your 
left ear and over part of your face and was causing you severe 
discomfort.  A CT scan of your head confirmed that this 
infection was superficial.  The CT scan also showed that there 
were no complications that would require surgery.  You were also 
evaluated by the ear-nose-throat doctors who did not think you 
needed any further intervention.  They agreed that this was most 
likely a bacterial ear infection.

We treated with you with medications for the pain and gave you 
two antibiotics for the ear infection.  You also received drops 
to put in your left ear.

It is important you continue taking these antibiotics for the 
full course, even if you feel better before finishing the 
course.  Please follow up with your doctors during the 
___ listed below, or reschedule as needed.

It was a pleasure caring for you!
 
Followup Instructions:
___